US04916235
Preparation of 4-benzocyclobutenyl-3-aminophenyl ketone.
4-benzocyclobutenyl-3-nitrophenyl ketone (11.0 g, 43.4 mmol) was partially dissolved in a mixed solvent (30 ml of ethyl acetate and 70 ml of methanol in a 300 ml round-bottomed flask). To the suspension was added 0.95 g of 10% Pd/C followed by the addition of 13.0 g (206 mmol) of ammonium formate. The black reaction mixture was then stirred magnetically under an atmosphere of nitrogen at room temperature for about 3 hrs. The reaction mixture was then filtered through a bed of Celite and the solid residue was washed with methanol until the filtrate was colorless. The yellow-green filtrate was subsequently subjected to rotary evaporation. The resultant viscous amber liquid was mixed with about 50 ml of methylene chloride and the solution formed was washed with 2 portions (100 ml) of H2O. Finally, the methylene chloride extract was dried over anhydrous magnesium sulfate. After the removal of the drying agent and the solvent, a very viscous and amber liquid was isolated. Despite drying in the vacuum (70° C.) for more than 24 hours, it never solidified. Yield: 8.0 g. It was used in the subsequent synthesis without further purification. Mass Spectroscopy: M+, m/e= 223, 100%. IR(KBr pellet). ν(NH2) at 3365 vs and 3460s; ν(CO) at 1646 vs. Proton NMR (CDCl3, δ in ppm): 3.21 (singlet, 4H, alicyclic protons); 3.83 (singlet, 2H, NH2); 6.73-7.77 (multiplet, 7H, aromatic protons).

reactant | 4-benzocyclobutenyl-3-nitrophenyl ketone | 43.4 mmol, 11.0 g | C1(=CC2=C1C=CC=C2)C2=C(C=C(C=C2)C(=O)C2=CC(=C(C=C2)C2=CC1=C2C=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C29H16N2O5
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonium formate | 206 mmol, 13.0 g | C(=O)[O-].[NH4+]
reactant | KBr | [K+].[Br-]
catalyst | Pd/C | 0.95 g | [Pd] | Pd
solvent | methanol | 70 ml | CO | CH4O
product | 4-benzocyclobutenyl-3-aminophenyl ketone | C1(=CC2=C1C=CC=C2)C2=C(C=C(C=C2)C(=O)C2=CC(=C(C=C2)C2=CC1=C2C=CC=C1)N)N | C29H20N2O
